US08207180B2
8-Amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid amide (M3)
To a solution of 8-amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza -cyclopenta[a]naphthalene-3-carboxylic acid M2 (0.08 mmol) in dry DMF (4 mL), HOBT.NH3 (0.164 mmol), TBTU (0.164 mmol) and DIEA (0.328 mmol) were added. The mixture was stirred at rt for 24 h then the solvent was evaporated. The residue was suspended in 10 mL of water, filtered, washed with water and dried in vacuo, providing the title compound (55% yield). ESI (+) MS: m/z 244 (MH+). 1H NMR: 2.73 (t, J=7.44, 2H), 3.00 (t, J=7.44, 2H), 4.04 (s, 3H), 6.94 (bs, 1H), 7.35 (bs, 1H), 7.73 (s, 1H), 7.96 (s, 1H), 7.76 (bs, 3H).

reactant | 8-amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza -cyclopenta[a]naphthalene-3-carboxylic acid | NC1=NC=C2CCC3=C(C2=N1)N(C=C3C(=O)O)C | C12H12N4O2
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH3 | 0.164 mmol | N | H3N
reactant | TBTU | 0.164 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | 0.328 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 8-Amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid amide | 55% yield | NC1=NC=C2CCC3=C(C2=N1)N(C=C3C(=O)N)C | C12H13N5O
